US07728144B2
3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic Acid Methyl Ester
Methyl 3-bromopropionate (553 μL, 5.07 mmol) was added to a stirred solution of biphenyl-2-ylcarbamic acid piperidin-4-yl ester (1.00 g, 3.38 mmol; prepared as described in Preparation 1) and DIPEA (1.76 mL, 10.1 mmol) in ACN (34 mL) at 50° C. and the reaction mixture was heated at 50° C. overnight. The solvent was then removed under reduced pressure, and the residue was dissolved in DCM (30 mL). The resulting solution was washed with saturated aqueous sodium bicarbonate solution (10 mL), dried over MgSO4, filtered and the solvent was removed under reduced pressure. The crude residue was purified by column chromatography (5-10% MeOH/DCM) to give 905 mg of the title intermediate (70% yield).

reactant | Methyl 3-bromopropionate | 5.07 mmol, 553 μL | BrCCC(=O)OC | C4H7BrO2
reactant | biphenyl-2-ylcarbamic acid piperidin-4-yl ester | 3.38 mmol, 1.00 g | N1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C18H20N2O2
reactant | DIPEA | 10.1 mmol, 1.76 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 34 mL | C(C)#N | C2H3N
product | 3-[4-(Biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic Acid Methyl Ester | 905 mg, 70% yield | COC(CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O | C22H26N2O4
